US04339443
Monosodium monoethyl acetylphosphonate
A solution of diethyl acetylphosphonate (5 g, 0.028 mol) and oven-dried sodium iodide (4.2 g, 0.028 mol) in molecular sieve dried ethyl methyl ketone (75 ml) was stirred and refluxed for 16 hours.

reactant | diethyl acetylphosphonate | 0.028 mol, 5 g | C(C)(=O)P(OCC)(OCC)=O | C6H13O4P
reactant | sodium iodide | 0.028 mol, 4.2 g | [I-].[Na+]
solvent | ethyl methyl ketone | 75 ml | CC(=O)CC | C4H8O
product | Monosodium monoethyl acetylphosphonate | C(C)(=O)P(OCC)([O-])=O.[Na+] | InChI=1S/C4H9O4P.Na/c1-3-8-9(6,7)4(2)5;/h3H2,1-2H3,(H,6,7);/q;+1/p-1
